* C:\Users\llag396\OneDrive - The University of Auckland\Documents\GitHub\310TEAM11\Lanna\alternative_rx.asc
I1 N004 N003 PULSE(0 100n 1n 0 0 2u 10u)
D1 N003 N004 D
C1 N003 N004 4p
R1 N003 N004 10Meg
V1 N004 0 5V
R2 N003 0 100k
XU1 N003 N001 5V 0 Vsns1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 Vsns1 N001 90k
R4 N001 0 10k
C2 Vfilter Vsns1 100µF
R5 Vfilter 2.5V 10k
XU2 Vfilter N002 NC_01 NC_02 Vo level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 2.5V 0 2.5V
R6 N002 2.5V 10k
R7 Vo N002 90k
.model D D
.lib C:\Users\llag396\AppData\Local\LTspice\lib\cmp\standard.dio
* Load Resistor
.tran 0 1m 0 10u
* Model of Photodiode
* Reverse Bias
* Gain: about 10x\nWe might have to change this
* High Pass Filter\n(WIP)
* We can offset by changing GND\nto 2.5V here
.lib UniversalOpAmp1.lib
.backanno
.end
